US04725616
Methyl 1-N-(phenyl)carbamoyl-5-chlorooxindole-3-carboxylate
To 6.0 g. (0.027 mole) of methyl 5-chlorooxindole-3-carboxylate in 200 ml. of toluene was added 5.25 ml. (0.048 mole) of phenylisocyanate and the resulting reaction mixture heated to reflux overnight. The reaction mixture was cooled and diluted with petroleum ether to give, after filtration and drying, 2.0 g. of the desired product.

reactant | methyl 5-chlorooxindole-3-carboxylate | 0.027 mole | ClC=1C=C2C(C(NC2=CC1)=O)C(=O)OC | C10H8ClNO3
reactant | phenylisocyanate | 0.048 mole | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Methyl 1-N-(phenyl)carbamoyl-5-chlorooxindole-3-carboxylate | C1(=CC=CC=C1)NC(=O)N1C(C(C2=CC(=CC=C12)Cl)C(=O)OC)=O | C17H13ClN2O4
